US05314998
A mixture of 13.16 g N-butyl-N-(3'-phenylpropyl)-4-hydroxy-3-nitrobenzenesulfonamide, 2 g 1 wt % platinum on alumina, and 200 ml ethanol was stirred for 22 hours at room temperature in a bomb charged with 800 psi of hydrogen. The solution was filtered and concentrated to give 12.02 g N-butyl-N-(3'-phenylpropyl)-3-amino-4-hydroxybenzensulfonamide.

reactant | N-butyl-N-(3'-phenylpropyl)-4-hydroxy-3-nitrobenzenesulfonamide | 13.16 g | C(CCC)N(S(=O)(=O)C1=CC(=C(C=C1)O)[N+](=O)[O-])CCCC1=CC=CC=C1 | C19H24N2O5S
reactant | hydrogen | [H][H] | H2
catalyst | platinum on alumina | [Pt] | Pt
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-butyl-N-(3'-phenylpropyl)-3-amino-4-hydroxybenzensulfonamide | 12.02 g | C(CCC)N(S(=O)(=O)C1=CC(=C(C=C1)O)N)CCCC1=CC=CC=C1 | C19H26N2O3S
